US04537895
A mixture of 7.0 g (0.02 mole) of 4-phenyl-8-chloro-acetylamino-2-methyl-1,2,3,4-tetrahydro-isoquinoline-hydrochloride, 70 ml of ethanol and 20 ml (17.0 g, 0.24 mole) of pyrrolidine is refluxed for 5 hours. The reaction mixture is evaporated in vacuo, the residue is dissolved in a mixture of 100 ml of water and 100 ml of ether and the mixture is made alkaline by adding 30 ml of a 30% aqueous sodium hydroxide solution under cooling and stirring. The layers are separated, the aqueous phase is extracted five times with 100 ml of ether each, the organic phase is dried over anhydrous sodium sulfate, clarified with activated charcoal and evaporated. The residue is dissolved in 100 ml of warm ethanol and a solution of 6.6 g (0.057 mole) of maleic acid and 40 ml of ethanol is added. The product is precipitated by adding 1000 ml of ether. The sticky solid dimaleate salt is dissolved in 100 ml of water and the solution is made alkaline by adding 60 ml of a 30% aqueous sodium hydroxide solution under cooling and stirring. The aqueous layer is extracted once with 200 ml and four times with 100 ml of ether each. The ether phases are united, dried over anhydrous sodium sulfate and clarified with activated charcoal. The ether is evaporated and the residue is washed with a mixture of ether and petrolether. Thus 5.4 g of 4-phenyl-2-methyl-8-pyrrolidino-acetylamino-1,2,3,4-tetrahydro-isoquinoline are obtained in the form of white crystals (0.0154 mole). Mp.: 130° C.

reactant | 4-phenyl-8-chloro-acetylamino-2-methyl-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | 0.02 mole, 7.0 g | Cl.C1(=CC=CC=C1)C1CN(C(C2=C(C=CC=C12)Cl)NC(C)=O)C
reactant | pyrrolidine | 0.24 mole, 20 ml, 17.0 g | N1CCCC1 | C4H9N
reactant | maleic acid | 0.057 mole, 6.6 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-phenyl-2-methyl-8-pyrrolidino-acetylamino-1,2,3,4-tetrahydro-isoquinoline | 5.4 g | C1(=CC=CC=C1)C1CN(C(C2=C(C=CC=C12)N1CCCC1)NC(C)=O)C | C22H27N3O
